US04906624
Step 2: Preparation of 4-(4-Fluorophenyl)-5-(3-hydroxy-2-propenyl)-2,6-bis(1-methylethyl)-3-pyridinecarboxylic acid
A solution of 4-(4-Fluorophenyl)-5-(3-hydroxy-2-propenyl)-2,6-bis(1-methylethyl)-3-pyridinecarboxylic acid, methyl ester (7.5 g, 0.0202 mol) and KOH (3.66 g, 0.0652 mol) in n-butanol was refluxed for 72 hours followed by concentration of the butanol under reduced pressure. The residue was partitioned between water (250 ml) and diethylether (100 ml). The aqueous layer was acidified (citric acid) and extracted with chloroform (3×150 ml). The organic layer was dried (MgSO4) and concentrated to yield 4.0 g of the title compound.

reactant | 4-(4-Fluorophenyl)-5-(3-hydroxy-2-propenyl)-2,6-bis(1-methylethyl)-3-pyridinecarboxylic acid, methyl ester | 0.0202 mol, 7.5 g | FC1=CC=C(C=C1)C1=C(C(=NC(=C1CC=CO)C(C)C)C(C)C)C(=O)OC | C22H26FNO3
reactant | KOH | 0.0652 mol, 3.66 g | [OH-].[K+]
solvent | n-butanol | C(CCC)O | C4H10O
product | 4-(4-Fluorophenyl)-5-(3-hydroxy-2-propenyl)-2,6-bis(1-methylethyl)-3-pyridinecarboxylic acid | 4.0 g | FC1=CC=C(C=C1)C1=C(C(=NC(=C1CC=CO)C(C)C)C(C)C)C(=O)O | C21H24FNO3
